US20010006969A1
4-Allylamino-2-diallylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride
In a sealed tube were heated 287 mg (1.2 mmol) of 4-allylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine and 1.87 g (19.2 mmol) of diallylamine at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate (50 ml×2). The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 193 mg (yield: 53.7%) of a free base compound of the title compound.

reactant | 4-allylamino-2-chloro-7-methylthieno[3,2-d]pyrimidine | 1.2 mmol, 287 mg | C(C=C)NC=1C2=C(N=C(N1)Cl)C(=CS2)C | C10H10ClN3S
reactant | diallylamine | 19.2 mmol, 1.87 g | C(C=C)NCC=C | C6H11N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-Allylamino-2-diallylamino-7-methylthieno[3,2-d] pyrimidine hydrochloride | Cl.C(C=C)NC=1C2=C(N=C(N1)N(CC=C)CC=C)C(=CS2)C | InChI=1S/C16H20N4S.ClH/c1-5-8-17-15-14-13(12(4)11-21-14)18-16(19-15)20(9-6-2)10-7-3;/h5-7,11H,1-3,8-10H2,4H3,(H,17,18,19);1H
